datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCC[NH:10]Cc1ccc(C)cc1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCC[NH+:10](Cc1ccc(C)cc1)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C[Si](C)(CC(=O)[O:21][H:20])c1ccccc1.O=C(O)c1ccc[o:10]1>>C[Si](C)(CC(=O)[O-:21])c1ccccc1.O=C(O)c1ccc[o+:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCC[NH2+:10][H:20] 10=20;20,21=21",
"C/C(O)=C/C(=O)[O-:10].CCOCCn1c(CN2CCC[N+:21](CCCCn3cc(C(=O)[O-])cn3)([H:20])CC2)nc2ccccc21>>C/C(O)=C/C(=O)[O:10][H:20].CCOCCn1c(CN2CCC[N:21](CCCCn3cc(C(=O)[O-])cn3)CC2)nc2ccccc21 10=20;20,21=21",
"CCOC(=O)Cc1[nH]c2ccccc2[n+:21]1[H:20].Cc1cc(CO)c([O-:10])c(CO)c1>>CCOC(=O)Cc1[nH]c2ccccc2[n:21]1.Cc1cc(CO)c([O:10][H:20])c(CO)c1 10=20;20,21=21",
"CCCCCC/C=N/[O-:10].Nc1sc([N+](=O)[O-])c[n+:21]1[H:20]>>CCCCCC/C=N/[O:10][H:20].Nc1sc([N+](=O)[O-])c[n:21]1 10=20;20,21=21",
"C[Si](C)(C)CCCCCC(=O)[O:21][H:20].O=C(Nc1cc[n:10]cc1)c1ccccc1>>C[Si](C)(C)CCCCCC(=O)[O-:21].O=C(Nc1cc[n+:10]([H:20])cc1)c1ccccc1 10=20;20,21=21",
"CC1(C)CC(=O)C2=C(C1)[N-:10]C1=C(C2)C(=O)CC(C)(C)C1.CC[NH+:21](c1ccccc1C)[H:20]>>CC1(C)CC(=O)C2=C(C1)[N:10]([H:20])C1=C(C2)C(=O)CC(C)(C)C1.CC[NH:21]c1ccccc1C 10=20;20,21=21",
"CCC(CO)[NH+:21](Cl)[H:20].CN(C)c1sc(c2ccccc2)c[n:10]1>>CCC(CO)[NH:21]Cl.CN(C)c1sc(c2ccccc2)c[n+:10]1[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cc(CC[NH2:10])ccn1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cc(CC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"CCCCNC(=O)[N:21](S(=O)(=O)c1ccc(C)cc1)[H:20].O=C(c1ccccc1I)[O-:10]>>CCCCNC(=O)[N-:21]S(=O)(=O)c1ccc(C)cc1.O=C(c1ccccc1I)[O:10][H:20] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])=C1.[O-][N+]([O-])=C(CO)C[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=C1.[O-][N+]([O-])=C(CO)C[O:10][H:20] 10=20;20,21=21",
"C[C@H]1C[NH:10][C@@H](C)CN1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@H]1C[NH+:10]([H:20])[C@@H](C)CN1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C([O-])[C@@H]1C[C@@H](O)C[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])[C@@H]1C[C@@H](O)C[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[NH+](C)CCNc1cc[n:10]c2cccc([N+](=O)[O-])c12.O=[N+]([O-])c1cc(Cl)ccc1[Se][O:21][H:20]>>C[NH+](C)CCNc1cc[n+:10]([H:20])c2cccc([N+](=O)[O-])c12.O=[N+]([O-])c1cc(Cl)ccc1[Se][O-:21] 10=20;20,21=21",
"CSc1ccc([NH2+:21][H:20])cc1.Cc1nn(-c2ccccc2)c([O-:10])c1C1CCCCC1>>CSc1ccc([NH2:21])cc1.Cc1nn(-c2ccccc2)c([O:10][H:20])c1C1CCCCC1 10=20;20,21=21",
"O=C(C1=CC=NC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20].OCC[O-:10]>>O=C(C1=CC=NC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1.OCC[O:10][H:20] 10=20;20,21=21",
"CC(C)(C)[NH:10]CCO.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)(C)[NH+:10](CCO)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"COc1[nH]c2cncnc2[n+:21]1[H:20].C[C@H]1[C@@H]([NH3+])[C@@H](C)[C@@H]([NH2:10])[C@@H](C)[C@H]1[NH3+]>>COc1[nH]c2cncnc2[n:21]1.C[C@H]1[C@@H]([NH3+])[C@@H](C)[C@@H]([NH2+:10][H:20])[C@@H](C)[C@H]1[NH3+] 10=20;20,21=21",
"CC(C)C[C@H](N)C(=O)N[C@@H](CC(N)=O)C(=O)[O:21][H:20].COC(=O)c1cccc([N-:10]C=S)c1>>CC(C)C[C@H](N)C(=O)N[C@@H](CC(N)=O)C(=O)[O-:21].COC(=O)c1cccc([N:10](C=S)[H:20])c1 10=20;20,21=21",
"COC(=O)c1cccc[n+:21]1[H:20].Cc1[nH]c2ccc(C(=O)[O-])cc2[n:10]1>>COC(=O)c1cccc[n:21]1.Cc1[nH]c2ccc(C(=O)[O-])cc2[n+:10]1[H:20] 10=20;20,21=21",
"NS(=O)(=O)c1ccc(/N=C/c2ccccc2[O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NS(=O)(=O)c1ccc(/N=C/c2ccccc2[O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc(C(=O)[O-:10])ccc1Cl.O=[N+]([O-])c1cccc([Se](=O)[O:21][H:20])c1>>Cc1cc(C(=O)[O:10][H:20])ccc1Cl.O=[N+]([O-])c1cccc([Se](=O)[O-:21])c1 10=20;20,21=21",
"CC(C)N(CCC(C(=O)[NH-:10])(c1ccccc1)c1ccccn1)C(C)C.Ic1ccc[n+:21]([H:20])c1>>CC(C)N(CCC(C(=O)[NH:10][H:20])(c1ccccc1)c1ccccn1)C(C)C.Ic1ccc[n:21]c1 10=20;20,21=21",
"CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N-:10]c1nccs1.Fc1ccc([N:21](C(=S)c2ccc(Cl)cc2)[H:20])cc1>>CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N:10](c1nccs1)[H:20].Fc1ccc([N-:21]C(=S)c2ccc(Cl)cc2)cc1 10=20;20,21=21",
"CC(=O)/C(=N/[O:21][H:20])c1ccccc1.CSc1ncnc2c1cn[n-:10]2>>CC(=O)/C(=N/[O-:21])c1ccccc1.CSc1ncnc2c1cn[n:10]2[H:20] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])=C1.O=C([O-])C[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)=C1.O=C([O-])C[O:10][H:20] 10=20;20,21=21",
"O=C([O-])C1CSC[NH+:21]1[H:20].[NH3+]CC[N:10]1CCOCC1>>O=C([O-])C1CSC[NH:21]1.[NH3+]CC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"Cc1cc([O-])[n+:21]([H:20])cn1.O=C(c1ccccc1)[N-:10]c1nnc(c2ccccc2)s1>>Cc1cc([O-])[n:21]cn1.O=C(c1ccccc1)[N:10](c1nnc(c2ccccc2)s1)[H:20] 10=20;20,21=21",
